US07399759B2
3-[2-(7-Chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-6-methyl-4-pyridyl]propionic acid
tert-Butyl 3-[2-(7-chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-6-methyl-4-pyridyl]propanoate (0.90 g, 2.5 mmol) was dissolved in trifluoroacetic acid (8 ml), and the mixture was stirred at 0° C. for 2 hrs. The solvent was evaporated, and the residue was recrystallized from diisopropyl ether-ethanol to give the titled compound (0.74 g, 82%) as pale yellow crystals.

reactant | tert-Butyl 3-[2-(7-chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-6-methyl-4-pyridyl]propanoate | 2.5 mmol, 0.90 g | ClC1=CC2=C(C(N=C(S2)C2=NC(=CC(=C2)CCC(=O)OC(C)(C)C)C)=O)C=C1 | C21H21ClN2O3S
solvent | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[2-(7-Chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-6-methyl-4-pyridyl]propionic acid | 0.74 g, 82% | ClC1=CC2=C(C(N=C(S2)C2=NC(=CC(=C2)CCC(=O)O)C)=O)C=C1 | C17H13ClN2O3S
